US08957070B2
Ethyl N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]-N-(2-thienylsulfonyl)aminoacetate
A mixture of ethyl N-[1-(methoxymethyl)-2-(1,3-thiazol-2-yl)-1H-indol-7-yl]-N-(2-thienylsulfonyl)aminoacetate (0.31 g), concentrated hydrochloric acid (0.5 mL) and ethanol (6 mL) was stirred at 70° C. for 6 hr. The reaction mixture was neutralized with aqueous sodium bicarbonate, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography and the title compound (0.17 g, yield 60%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point 135-137° C.

reactant | ethyl N-[1-(methoxymethyl)-2-(1,3-thiazol-2-yl)-1H-indol-7-yl]-N-(2-thienylsulfonyl)aminoacetate | 0.31 g | COCN1C(=CC2=CC=CC(=C12)N(S(=O)(=O)C=1SC=CC1)CC(=O)OCC)C=1SC=CN1 | C21H21N3O5S3
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | Ethyl N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]-N-(2-thienylsulfonyl)aminoacetate | 0.17 g, yield 60% | S1C(=NC=C1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)CC(=O)OCC | C19H17N3O4S3
